US07947676B2
(3S)-1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}pyrrolidin-3-ol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and (S)-3-pyrrolidinol to give the title compound in 17% yield; NMR Spectrum: 1.50-1.54 (m, 1H), 1.91-1.96 (m, 1H), 2.40 (dd, 1H), 2.55 (dd, 1H), 2.66 (dd, 1H), 2.80-2.89 (m, 3H), 4.16 (br s, 1H), 4.40 (t, 2H), 4.69 (br s, 1H), 5.28 (s, 2H), 7.24 (d, 1H), 7.37 (t, 1H), 7.55-7.58 (m, 2H), 7.87 (t, 1H), 7.92 (d, 1H), 8.29 (s, 1H), 8.45 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 482 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | (S)-3-pyrrolidinol | N1C[C@H](CC1)O | C4H9NO
product | (3S)-1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}pyrrolidin-3-ol | 17% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2C[C@H](CC2)O | C23H24ClN7O3
